US08071602B2
Step 1: 2-(3,4-Dimethoxyphenyl)-1-[4-(2-hydroxyethyl)piperidin-1-yl]ethanone (A)
To an ice-cold solution of 3,4-dimethoxyphenylacetic acid (7.60 g, 38.7 mmol), N,N-dimethylaminopyridine (DMAP; 11.4 g, 93 mmol), and 4-piperidin-ethanol (5 g, 39 mmol) in dry dichloromethane (DCM; 80 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDAC.HCl; 9.65 g, 50.3 mmol) in one portion. The cooling bath was removed and the reaction was allowed to warm to room temperature. After five hours, HPLC analysis revealed the 3,4-dimethoxyphenylacetic acid was consumed. The reaction mixture was washed once with 1 N HCl(aq) (90 mL) and concentrated in vacuo. The residue was chromatographed to yield the title compound (A; 10.67 g, 90% yield) as viscous oil.

reactant | 3,4-dimethoxyphenylacetic acid | 38.7 mmol, 7.60 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | 4-piperidin-ethanol | 39 mmol, 5 g | N1CCC(CC1)CCO | C7H15NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 50.3 mmol, 9.65 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-(3,4-Dimethoxyphenyl)-1-[4-(2-hydroxyethyl)piperidin-1-yl]ethanone | 90% yield | COC=1C=C(C=CC1OC)CC(=O)N1CCC(CC1)CCO | C17H25NO4
